Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a healthy ___ male with Hx of GERD who is 
here for evaluation of maroon bloody stools. Patient is here 
visiting from ___. Patient reports tonight prior to 
evaluation here he was in his usual state of health; however, 
woke up around 2 am last night w/ abdominal cramping and had 
maroon colored stools. He also had ___ episodes of emesis, one 
of which was coffee-grounds in ___. He reports 3 further 
episodes of maroon-appearing stool. The patient does report that 
upon getting an ambulance he felt significantly dizzy. He denies 
any pain with defecation, does endorse significant bilat lower 
abdominal pain. Denies fevers, chills, chest pain no significant 
EtOH history. No history of liver disease. He is not on 
anticoagulation.  In the ED, initial VS were 98 64 173/96 18 
96%. Exam was notable for sig LLQ pain and rectal showed dried 
gross blood with no active bleeding. Labs were notable for 
lactate of 2.4, wbc of 13, otherwise normal cbc, chem panel, 
coags. Imaging was notable for CT abdomen/pelvis w/ contrast 
which showed "diffuse wall thickening of the descending colon 
and adjacent fat stranding with less severe changes in the mid 
to distal transverse colon 
compatible with colitis. The differential includes inflammatory, 
infectious or ischemic." Received cipro, flagyl, 2L NS, zofran, 
morphine. Admitted to medicine for further management.  On 
arrival to the floor, patient felt comfortable and had no 
complaints apart from mild abdominal pain.  

REVIEW OF SYSTEMS: as per HPI  

 

 
Past Medical History:
GERD  
Neck fracture s/p fall in ___ - multiple other orthopedic 
injuries requiring surgical repair and hardware.
 

 
Social History:
___
Family History:
Father died of MI at ___, mother died of MI at ___.  

 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================

VS 97.7 154/97 65 18 97% RA  
General: NAD  
HEENT: MMM, OP clear  
Neck: Supple, no JVD  
CV: RRR, no m/g/r  
Lungs: CTAB, slightly distant breath sounds throughout  
Abdomen: soft, mild TTP in RLQ, mild guarding, no rebound, 
hypoactive bowel sounds  
GU: deferred  
Ext: No ___ edema  
Neuro: CN II - XI intact  
Skin: No rash 
 
DISCHARGE PHYSICAL EXAM:
========================

VS 98.0 139/88 49 21 97% RA  
General: NAD  
HEENT: MMM, OP clear  
Neck: Supple, no JVD  
CV: RRR, no m/g/r  
Lungs: CTAB, slightly distant breath sounds throughout  
Abdomen: soft, slightly distended, No TTP, no guarding, no 
rebound or other peritoneal signs, normoactive bowel sounds.  
GU: deferred  
Ext: No ___ edema  
Neuro: CN II - XI intact  
Skin: No rash  

 
Pertinent Results:
ADMISSION LABS:
===============

___ 01:00PM BLOOD WBC-13.0* RBC-4.87 Hgb-16.2 Hct-48.5 
MCV-100* MCH-33.2* MCHC-33.4 RDW-12.2 Plt ___
___ 01:00PM BLOOD Neuts-87.2* Lymphs-7.7* Monos-4.7 Eos-0.2 
Baso-0.3
___ 01:00PM BLOOD ___ PTT-29.0 ___
___ 01:00PM BLOOD Glucose-123* UreaN-17 Creat-1.0 Na-138 
K-4.6 Cl-99 HCO3-26 AnGap-18

PERTINENT LABS:
===============

___ 01:38PM BLOOD Lactate-2.4*
___ 06:32AM BLOOD Lactate-1.5
___ 11:52AM BLOOD Lactate-1.2
___ 04:00AM BLOOD Lactate-1.1
___ 06:19AM BLOOD HBsAb-NEGATIVE HBcAb-NEGATIVE
___ 06:19AM BLOOD HCV Ab-NEGATIVE

PERTINENT IMAGING:
==================

ECG ___:
Sinus bradycardia. Non-specific ST-T wave changes. No previous 
tracing 
available for comparison.  
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
50 180 86 ___ 

CT abd/pelvis ___:
IMPRESSION:   
1.  Colitis of the descending colon, ddx includes infectious, 
inflammatory, or ishemic causes. 
2.  Hepatic steatosis.  

PERTINENT MICRO:
================
 
___ 9:36 am STOOL     CONSISTENCY: LOOSE

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

BCx ___ x2: Negative

DISCHARGE LABS:
===============

___ 06:00AM BLOOD WBC-6.7 RBC-4.30* Hgb-14.4 Hct-42.6 
MCV-99* MCH-33.5* MCHC-33.8 RDW-12.3 Plt ___
___ 06:00AM BLOOD Glucose-111* UreaN-17 Creat-1.0 Na-141 
K-4.4 Cl-102 HCO3-30 AnGap-13
___ 06:00AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.2
 
Brief Hospital Course:
Mr/ ___ is a ___ w/ GERD who presented with maroon stools 
and abdominal pain; CT abdomen w/ evidence of colitis.  

ACTIVE ISSUES:
==============

# Colitis: 
Ischemic vs. inflammatory vs. infectious.  Vascular disease 
likely given strong family history, Hx of smoking; however, no 
antecedent diarrhea or other cause of hypovolemia to explain 
ischemic colitis.  The patient was made NPO for bowel rest and 
received IVF.  He was started on IV Metronidazole and 
Ciprofloxacin.  He was started on an IV PPI BID ___ concern for 
UGIB ___ reported coffee-ground emesis; this did not recur and 
was discontinued at discharge.  His abdominal tenderness 
improved, and he did not actually have a bowel movement for 
several days.  He received senna and colace and had multiple 
watery bowel movements; this was C diff negative.  The patient's 
diet was advanced when his abdominal exam improved and he was 
discharged home on a total of 10 days of ABx. 

# Urinary retention: 
The patient had one episode of urinary retention most likely ___ 
opiate pain medications (he required morphine and dilaudid for 
pain control).  A foley was placed for management of urinary 
retention and discontinued two days thereafter; thereafter he 
was able to void freely.  He received standing tylenol to 1g TID 
standing on ___ to decrease need for opiates.    

CHRONIC ISSUES:
===============

# Hx of IVDU: 
Pt reported IV heroin and IV cocaine use in the very remote past 
___ years ago).  No stigmata of liver disease on exam and no 
synthetic liver dysfunction evident on labs.  HCV and HBV 
serologies were checked and were both negative.  

# EMERGENCY CONTACT HCP: 
wife (reachable at ___ # ___  

# CODE:
Full

TRANSITIONAL ISSUES:
====================
- Patient visiting from ___ and ___ not be returning until 
the end ___ - therefore will set him up with a 
post-discharge appointment with Dr. ___ to be seen next 
week.
- Patient discharged on 5 more days of PO Cipro/flagyl (last day 
= ___ to complete a total 10 day course.
- Pt frequently hypertensive to 140s-160s during this admission. 
Once acute illness has resolved, if pt still hypertensive he 
would benefit from an antihypertensive.
- Consider starting Aspirin 81 mg PO QD for primary prevention 
given strong FHx of CAD
- The patient will need an outpatient colonoscopy once acute 
episode has subsided (in ___ months) - this will need to be 
ordered by his PCP in ___.
- Patient endorsed one episode of coffee-ground emesis that did 
not recur.  Given his EtOH use, it is possible he may have mild 
gastritis.  If his GERD persists or worsens, EGD to evaluate for 
___ esophagus and gastritis may be warranted.
- Patient with hepatic steatosis identified on abdominal CT - he 
would benefit from continued lifestyle and weight loss 
counseling, and avoiding EtOH.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth three times a 
day Disp #*30 Tablet Refills:*0
2. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*10 Tablet Refills:*0
3. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
Do not drink alcohol while taking this medication 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Colitis (ischemic vs. infectious)

Secondary: Gastroesophageal Reflux Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital for blood in 
your stool and abdominal pain.  We gave you fluids through the 
IV, antibiotics, and pain medication, and your symptoms 
improved.  We think this was most likely caused by temporarily 
inadequate blood flow to your colon, a condition called 
"Ischemic colitis."  However, it is also possible that your 
symptoms may be caused by an infection.  For this reason, we are 
discharging you home on a course of oral antibiotics.  

Also during this hospitalization, you were unable to pee, which 
required placement of a catheter in your bladder.  This was most 
likely caused by narcotic pain medications.  After we removed 
the catheter, you were able to pee without difficulty.  

Thank you for allowing us to participate in your care. 
 
Followup Instructions:
___